US06242598B1
2,4-Bis-(2,4-dimethylphenyl)-2-(n-propoxy)-s-triazine
A 500 mL round-bottomed flask fitted with a condenser, a magnetic stirrer and a nitrogen atmosphere is charged with 5.48 g (0.0169 mol) of 4,6-bis-(2,4-dimethylphenyl-2-chloro-s-triazine, 10.2 g (0.169 mol) of n-propanol, 2,37 g (0.0246 mol) of methane-sulfonic acid and 25 mL of m-xylene. The mixture is stirred at 90° C. for one hour. The mixture is then allowed to cool to room temperature and vacuum filtered through a plug of silica gel which is subsequently washed with 95:5 heptane:ethyl acetate. The combined organic layers are vacuum filtered through another plug of silica gel. The solvent is removed under reduced pressure to afford 3.31 g of the title compound as off-white crystals melting at 86-88° C.

reactant | 2,4-dimethylphenyl-2-chloro-s-triazine | CC1=C(C=CC(=C1)C)C1=NC(=NC=N1)Cl | C11H10ClN3
reactant | n-propanol | 0.169 mol, 10.2 g | C(CC)O | C3H8O
reactant | methane-sulfonic acid | 0.0246 mol, 2,37 g | CS(=O)(=O)O | CH4O3S
solvent | m-xylene | 25 mL | C1(=CC(=CC=C1)C)C | C8H10
product | 2,4-Bis-(2,4-dimethylphenyl)-2-(n-propoxy)-s-triazine | 3.31 g | CC1=C(C=CC(=C1)C)C1(NC=NC(=N1)C1=C(C=C(C=C1)C)C)OCCC | C22H27N3O
